Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion and ataxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year-old right-handed man with a left 
occipital grade II
meningioma s/p partial resection, radiation and CyberKnife who 
presented to ___ with confusion and ___ 
transferred to ___ for further evaluation.  Patient's wife 
states that he was in his USOH at 3pm on ___. He took a nap 
and when he awoke he was confused.  He fell while trying to walk 
so his wife brought him to the ED, but she does not report a 
head strike. No fever at home.

At ___, he was noted to have R arm weakness and 
coordination difficulty on physical examination.  Temperature 
99.1 F.  Per verbal report, he had a CT head which showed 
unchanged vasogenic edema and a subtle 2.4cm x 4.0cm soft tissue 
mass which was consistent with prior scan from ___ in their 
records. The patient's confusion did not improve. He underwent 
MRI head and
read is still pending. Aspirin 81mg was started.

On arrival to the floor, patient continues to be confused, 
accompanied by his wife, and able to answer basic questions and 
participlate only minimally with the examination. She notes his 
confusion has worsened since his fall on ___.

REVIEW OF SYSTEMS: Per HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Began ___ when he slipped on the ice and hit his head. He 
was taken to the emergency room where a CAT scan revealed a left
parietal-occipital lesion. In hindsight, he had fallen over the
previous ___ years approximately three to four times when his
legs gave out.  He is status post:
1. Partial resection of meningioma on ___ by Dr. ___ 
___.
2. Involved field radiation from ___ to ___ to 5800 
cGy.
3. Cyberknife SRS ___ to 3000 cGy (600 cGy x 5 
fractions); evaluated by Surgery and is thought not to be a 
surgical risk because of involvement of his sphenoid sinuses.

PAST MEDICAL HISTORY:
Meningioma grade II
Diabetes since his early ___
Hypertension x ___ years
Hypercholesterolemia
GERD
Gynecomastia with mammillary reduction
Lyme disease
Snoring
 
Social History:
___
Family History:
No noted family history of brain disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
==============================
GENERAL:  NAD
VITAL SIGNS: Temperature 98.5 F, BP 152/80, P 87, RR 18, and O2 
Saturation 97% in room air 
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or 
axillary adenopathy, no thyromegaly
CARDIOVASCULAR:  RR, NL S1S2 no S3/S4 MRG
PULMONARY:  CTAB
ABDOMEN:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXTREMITIES:  No edema, clubbing, tremors, or asterixis; no 
inguinal adenopathy
SKIN:  No rashes or skin breakdown

NEUROLOGICAL EXAMINATION:  Cranial nerves II-XII are within 
normal limits including visual acuity, no nystagmus; strength is 
___ of the proximal and distal upper and lower extremities on 
the left, ___ on the left upper extremity, reflexes are 2+ of 
the biceps, triceps, patellar, and Achilles
tendons, toes are down bilaterally; tests for dysmetria 
(finger-to-nose and heel-to shin) markedly limited by his 
confusional state and inability to follow directions; oriented x 
0. When asked to raise right leg, raises both right arm and 
right leg.

DISCHARGE PHYSICAL EXAMINATION
==============================
VITAL SIGNS: Temperature 97.7 F, BP 108/56, P 70, RR 16, O2 
Saturation 96% in room air (-1250)
General:  NAD, pleasant but confused. 
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CARDIOVASCULAR:  RR, NL S1S2 no S3S4 MRG
PULMONARY:  Nonlabored breathing. CTAB. No 
rales/rhonchi/wheezes. 
ABDOMEN:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXTREMITIES:  No edema, clubbing, tremors, or asterixis; no 
inguinal adenopathy
SKIN:  No rashes or skin breakdown

NEUROLOGICAL EXAMINATION:  Deferred this AM, pt sound asleep.  
On ___, Patient more cooperative with neuro examination.  
CNII-XII grossly intact bilaterally, no nystagmus. Muscle 
strength ___ in bilateral UE. ___ strength in left ___ and ___ 
___, patient is again lifting his right arm when asked to raise 
right leg. Reflexes are 2+ throughout. Cerebellar testing still 
limited by confused state (could not assess FTN or HTS). MS: AxO 
to name consistently, and to place today. ___ strength ___.

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:00AM BLOOD WBC-10.5* RBC-4.39* Hgb-13.7 Hct-39.9* 
MCV-91 MCH-31.2 MCHC-34.3 RDW-12.6 RDWSD-41.6 Plt ___
___ 03:26AM BLOOD WBC-11.1* RBC-4.38* Hgb-14.0 Hct-40.3 
MCV-92 MCH-32.0 MCHC-34.7 RDW-12.6 RDWSD-42.2 Plt ___
___ 03:26AM BLOOD Neuts-76.6* Lymphs-12.4* Monos-9.9 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-8.48* AbsLymp-1.37 
AbsMono-1.09* AbsEos-0.02* AbsBaso-0.03
___ 03:00AM BLOOD ___ PTT-31.6 ___
___ 03:00AM BLOOD Plt ___
___ 03:26AM BLOOD Plt ___
___ 03:00AM BLOOD Glucose-146* UreaN-10 Creat-0.9 Na-130* 
K-6.0* Cl-95* HCO3-26 AnGap-15
___ 09:20AM BLOOD Glucose-171* UreaN-10 Creat-0.9 Na-132* 
K-3.8 Cl-95* HCO3-26 AnGap-15
___ 03:00AM BLOOD estGFR-Using this
___ 03:00AM BLOOD ALT-18 AST-48* AlkPhos-48 TotBili-0.7
___ 03:00AM BLOOD cTropnT-<0.01
___ 03:00AM BLOOD Calcium-9.1 Phos-2.6* Mg-1.9
___ 09:20AM BLOOD Calcium-8.8 Phos-2.5* Mg-1.8
___ 03:00AM BLOOD VitB12-230*
___ 03:00AM BLOOD %HbA1c-6.5* eAG-140*
___ 03:00AM BLOOD TSH-2.5

MICROBIOLOGY
============
UA (___): 25 WBC, no growth
Blood culture (___): no growth

IMAGING
=======
MRI Brain ___:
1. A 2.6 cm left parafalcine meningioma with stable 
invasion/occlusion of the adjacent superior sagittal sinus, 
stable in comparison to multiple prior recent MRIs but slowly 
increased in size since ___.
2. Satellite nodule along the left lateral aspect of the lesion, 
stable since ___ but new since ___.

CT scan from ___ ___:
IMPRESSION: Vasogenic edema vs. gliosis in left parietal lobe, 
unchanged compared to ___ and ___. There is 
a sublte 2.5 x4cm lfet parasagittal soft-tissue mass present, 
improved with a baseline CT. No evidence of acute infarct. 

Carotid US from ___ ___:
IMPRESSION: No hemodynamic stenosis. 

CXR from ___ ___:
IMPRESSION: Left density most consistent with subsegmental 
atelectasis 

MRI brain with and without contrast ___:
IMPRESSION: Pending from ___ and pending in-house read.

NEUROPHYSIOLOGY
================
CONTINUOUS EEG (___): The background activity is 
asymmetric. During wakefulness, a slightly disorganized alpha 
frequency posterior dominant rhythm is seen, reaching up to a 
maximum of 8.5 Hz posteriorly, best seen on the right the left 
hemisphere shows continuous mixed theta and delta frequency 
slowing throughout the recording, maximal in the left temporal 
region. Frequent epileptiform discharges are seen in the left 
mid to posterior temporal region, phase reversing at T3, and T5. 
Additional epileptiform discharges are also seen in the left 
occipital region, at P3 and 01. There are frequent paroxysmal 
bursts of generalized, frontally maximal, rhythmic 2 Hz delta 
activity without clear evolution throughout the recording. 
  
SLEEP: The patient progresses from wakefulness to drowsiness, 
but normal transitions between various stages of sleep are not 
seen. 
  
PUSHBUTTON ACTIVATIONS: There are no pushbutton activations. 
  
SPIKE DETECTION PROGRAMS: There are numerous automated spike 
detections, predominantly for the left temporal epileptiform 
discharges as well as occasional left occipital discharges as 
described above. Other entries reflect electrode and movement 
artifact. 
  
SEIZURE DETECTION PROGRAMS: There are numerous automated seizure 
detections, predominantly for electrode and movement artifact. 
However, there is a 2 minute long seizure from 6:28:35 - 6:30:17 
am which arises out of sleep and begins in the left posterior 
quadrant, at P3 01 with initially low amplitude sharp theta 
frequency activity which evolves into 1. ___ Hz sharp wave 
discharges for a few seconds followed by sudden cessation of 
discharges for 2 seconds after which medium to high amplitude 
spike and wave and polyspike and wave discharges are seen again 
with highest amplitude at P3 and 01 region. This activity 
evolves further into higher amplitude ___ Hz polyspike 
discharges with spread diffusely into the left hemisphere, and a 
field extending into the right hemisphere. The seizure 
eventually and electrographically at 06:30:17. On video, the 
patient is asleep, and approximately 4 seconds before the 
electrographic onset of the seizure, the patient opens his eyes, 
stares ahead, and then closes his eyes midway through the 
electrographic seizure, without any other obvious clinical 
accompaniment. 
  
QUANTITATIVE EEG: Trend analysis is performed with Persyst Magic 
Marker software. Panels include automated seizure detection, 
rhythmic run detection and display, color spectral density 
array, absolute and relative asymmetry indices, asymmetry 
spectrogram, amplitude integrated EEG, burst suppression ratio, 
envelope trend, and alpha delta ratios. Segments showing 
abnormal trends are reviewed, and show the finding as described 
above. 
  
CARDIAC MONITOR: Shows a generally regular rhythm with an 
average rate of 80-90 bpm. 
  
IMPRESSION: This is an abnormal continuous ICU monitoring study 
because of a single 2 minute electrographic seizure with onset 
in the left parietal occipital region, arising out of sleep and 
associated with awakening and brief staring. Interictally, 
frequent epileptiform discharges are seen in the left mid to 
posterior temporal region as well as the left parieto-occipital 
region, indicative of 2 independent areas of potentially 
epileptogenic cortex. Throughout the recording, continuous mixed 
theta and delta frequency slowing is seen diffusely over the 
left hemisphere indicative of structural lesion causing focal 
cerebral dysfunction in this region. There are frequent 
paroxysmal bursts of generalized, frontally maximal 2 Hz 
rhythmic delta activity, indicative of deep midline subcortical 
dysfunction. The background over the right hemisphere 
demonstrates mild disorganization but does reach a  maximum of 
8.5 Hz during wakefulness. 

DISCHARGE LABS
===============
___ 07:35AM BLOOD WBC-7.6 RBC-4.63 Hgb-14.5 Hct-42.6 MCV-92 
MCH-31.3 MCHC-34.0 RDW-12.2 RDWSD-41.1 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-135* UreaN-24* Creat-0.9 Na-143 
K-4.7 Cl-103 HCO3-31 AnGap-14
___ 07:35AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.5
 
Brief Hospital Course:
___ is a ___ year-old male with a left occipital grade II 
meningioma s/p partial resection, radiation and cyberknife who 
presented to ___ with confusion and worsening gait 
instability, was transferred to ___ for further evaluation.

1. Altered Mental Status/Gait Instability: Patient has new onset 
confusion and worsening gait instability since ___, 
seemingly precipitated by a fall, per his wife. AMS attributed 
to seizures iso meningioma, noted on EEG and pt was started on 
keppra. WHe was suspected to have continued intermittent 
seizures clinically and valproate was added. Toxic metabolic, 
thromboembolic (OSH carotid ultrasound negative), infectious 
causes ruled out (CXR, CT Chest, blood and urine cultures 
negative). MRI brain shows no evidence of stroke or change in 
existing meningioma. B12 slightly low and TSH was normal. 
Patient was started on dexamethasone for presumed edema in 
setting of recent SRS. Mental status was continuously improving 
at time of discharge. It was also suspected that patient may 
have some underlying cognitive impairment.

2. Urinary Retention. Patient was having some urinary retention 
iso leukocytosis and confusion and so was started on macrobid, 
to complete 8 day course (last day ___. Of note, urine 
culture was negative, but this was collected after antibiotic 
therapy was initiated. 

3. Meningioma: Patient has known left occipital grade II 
meningioma s/p partial resection, radiation and s/p cyberknife 
therapy from ___ to ___, with documented normal 
neurological examination as recently as ___.  Brain MRI at 
OSH shows no interval change. 
- Work up as above 

4. Obstructive Sleep Apnea: Per patient's family, he has a 
history of obstructive sleep apnea, but refuses to use CPAP at 
home. Consider that hypoxia secondary to OSA could have 
triggered seizure. Have consulted for inpatient CPAP. Recommend 
outpatient sleep study following discharge.

5 Diabetes Mellitus: HbA1c 6.5 on ___. On Lantus 10units 
QAM, and insulin sliding scale while in the hospital.

TRANSITIONAL ISSUES
===================
- last day macrobid ___
- will need insulin teaching if going home on steroids
- started on B12 repletion, please recheck as outpatient
- continued neuro follow up as likely has previously 
unrecognized dementia
- started on keppra and divalproex as inpatient please consider 
tapering off keppra as outpatient if pt continues to be seizure 
free
- Has OSA, refused CPAP while inpatient. Recommend sleep study, 
and CPAP usage if pt is agreeable
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE 5 mg PO BID 
2. Losartan Potassium 25 mg PO BID 
3. Lovastatin 40 mg oral QHS 
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - mild
 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Dexamethasone 4 mg PO DAILY 
RX *dexamethasone 4 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Divalproex (DELayed Release) 750 mg PO BID 
RX *divalproex ___ mg 3 tablet(s) by mouth twice a day Disp #*90 
Tablet Refills:*2 
4.  Docusate Sodium 100 mg PO BID  
5.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Glargine 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
7.  LevETIRAcetam 750 mg PO TID seizure  
8.  Multivitamins 1 TAB PO DAILY  
9.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 1 
Dose 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth once a day Disp #*3 Capsule Refills:*0 
10.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
11.  Senna 8.6 mg PO BID  
12.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
13.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
14.  Aspirin 81 mg PO DAILY  
15.  Losartan Potassium 25 mg PO BID  
16.  Lovastatin 40 mg oral QHS

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Simple Partial Seizures
Meningioma 

SECONDARY DIAGNOSIS:
Diabetes
Obstructive sleep apnea
 
Discharge Condition:
Mental Status: Confused - always.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be part of your care. 

You were admitted to the hospital with worsening confusion and 
gait instability after having recently fallen. You were found to 
be having seizures and were started on two anti-seizure 
medications (keppra and valproate). These seizures are likely 
due to your brain tumor. You were started on a steroid 
medication to reduce any swelling in the brain. 

You were also diagnosed with a urinary tract infection while in 
the hospital and treated with an antibiotic called (macrobid), 
your last dose is today ___.

We also recommend that you have a sleep study once you get back 
home and on your feet to get a CPAP machine.

If you experience any worsening confusion or new seizures which 
might appear as loss of consciousness, eye rolling, etc please 
contact your doctor. 

We wish you the best,
Your ___ Team 
 
Followup Instructions:
___